US09399638B2
Intermediate-29: 6-Bromo-N-(2,6-difluorobenzyl)pyridin-3-amine
To a solution of 6-bromopyridin-3-amine (500 mg, 2.89 mmol), in MeOH (3 mL), acetic acid (0.165 mL, 2.89 mmol), 2,6-difluorobenzaldehyde (0.31 mL, 2.89 mmol) was added. After stirring the resulting mixture at RT for 12 h, sodium cyanoborohydride (363 mg, 5.78 mmol) was added at 0° C. and resulting mixture was stirred at RT for 6 h. Solvent was evaporated under vacuum. Residue was purified by column chromatography to afford 200 mg (23%) of the title compound as white solid. GC-MS-298, 300 [M+, Br79,81]

reactant | 6-bromopyridin-3-amine | 2.89 mmol, 500 mg | BrC1=CC=C(C=N1)N | C5H5BrN2
reactant | acetic acid | 2.89 mmol, 0.165 mL | C(C)(=O)O | C2H4O2
reactant | 2,6-difluorobenzaldehyde | 2.89 mmol, 0.31 mL | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | sodium cyanoborohydride | 5.78 mmol, 363 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 6-Bromo-N-(2,6-difluorobenzyl)pyridin-3-amine | 200 mg, 23% | BrC1=CC=C(C=N1)NCC1=C(C=CC=C1F)F | C12H9BrF2N2
